US07662771B2
Using a method similar to the procedure described for the preparation of 4-[4-(2-amino-phenyl)-oxazol-2-yl]-butyric acid; hydrolysis of 3-[4-(2-amino-phenyl)-oxazol-2-yl]-propionic acid methyl ester (4.8 g, 19.5 mmol) gives 3-[4-(2-amino-phenyl)-oxazol-2-yl]-propionic acid (3.84 g, 85%) after chromatography over silica gel (MeOH/CH2Cl2). MS (ES): (M+1)+ 233.1 m/z.

reactant | 4-[4-(2-amino-phenyl)-oxazol-2-yl]-butyric acid | NC1=C(C=CC=C1)C=1N=C(OC1)CCCC(=O)O | C13H14N2O3
reactant | 3-[4-(2-amino-phenyl)-oxazol-2-yl]-propionic acid methyl ester | 19.5 mmol, 4.8 g | COC(CCC=1OC=C(N1)C1=C(C=CC=C1)N)=O | C13H14N2O3
product | 3-[4-(2-amino-phenyl)-oxazol-2-yl]-propionic acid | 3.84 g, 85% | NC1=C(C=CC=C1)C=1N=C(OC1)CCC(=O)O | C12H12N2O3
